US08137821B2
Synthesis of 5-fluoro-3-methyl-8-quinolylethyne
Dimethylhydroxymethyl-5-fluoro-3-methyl-8-quinolylacetylene (336 mg, 1.38 mmol) and NaOH (55.2 mg, KISHIDA CHEMICAL CO., Ltd., 0.7 mm granular, 98 mass %, 1.38 mmol) were placed in a 300 mL two-neck flask equipped with a reflux condenser and the air inside the flask was replaced with Ar. 3.0 mL of toluene was added thereto and the mixture was refluxed at 120° C. for 30 minutes. Diethyl ether was added to the reaction mixture and the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate, followed by distilling off of the solvent under reduced pressure by an evaporator. The crude reaction product was purified by column chromatography (Hexane/AcOEt=100/0→1/10) using silica gel to give 130 mg of the desired compound as a brownish brown solid (yield: 50.7%).

reactant | Dimethylhydroxymethyl-5-fluoro-3-methyl-8-quinolylacetylene | 1.38 mmol, 336 mg | CC1=C(C(=NC2=C(C=CC(=C12)F)C#CCO)C)C | C15H14FNO
reactant | NaOH | 1.38 mmol, 55.2 mg | [OH-].[Na+]
reactant | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 5-fluoro-3-methyl-8-quinolylethyne | 130 mg, yield: 50.7% | FC1=C2C=C(C=NC2=C(C=C1)C#C)C | C12H8FN
